US06683201B2
A solution of 1.26 (6.03 mmol) of 4-(4-Dimethylamino-butoxy)-phenylamine in 15 ml dioxane was treated with 1.13 ml (6.1 mmol) Hünigsbase and 1.86 g (7.59 mmol) 4-(trifluoromethyl)benzenesulfonyl chloride. The reaction mixture was stirred over night at room temperature and extracted with aqueous saturated NaHCO3 solution/EtOAc (3×). The organic phase was dried over Na2SO4 and evaporated. The residue (partially disulfonamide) was dissolved in 20 ml dioxane, treated with 11.1 ml 1N NaOH and heated for 1 h at 100° C. The reaction mixture was neutralized (pH 7 with 1 N HCl) and extracted with EtOAc (2×). The organic phase was washed with aqueous saturated NaHCO3, dried over Na2SO4 and evaporated to yield 2.1 g (84%) of N-[4-(4-Dimethylamino-butoxy)-phenyl]-4-trifluoromethyl-benzenesulfonamide, MS: 417 (MH+).

reactant | 4-(4-Dimethylamino-butoxy)-phenylamine | CN(CCCCOC1=CC=C(C=C1)N)C | C12H20N2O
reactant | 4-(trifluoromethyl)benzenesulfonyl chloride | 7.59 mmol, 1.86 g | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
product | N-[4-(4-Dimethylamino-butoxy)-phenyl]-4-trifluoromethyl-benzenesulfonamide | 2.1 g, 84% | CN(CCCCOC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C | C19H23F3N2O3S
